US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-(4-pyrimidin-2-yl-piperazin-1-yl)-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(2-Pyrimidinyl)-piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: MS (ES) M+H expected=389.1, found=389.0; HPLC retention time=3.99 minutes (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C.) using a 4.5 minute gradient of 20% to 95% B (A=0.1% formic acid/5% acetonitrile/94.9% water, B=0.08% formic acid/99.9% acetonitrile).

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Pyrimidinyl)-piperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-(4-pyrimidin-2-yl-piperazin-1-yl)-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=NC=CC=N1)C(F)(F)F | C15H16ClF3N6O
